US05464836
Synthesis of 3-(3-benzoylphenyl)-2-methylpropanal.
0.085 g of palladium chloride, 0.254 g of triphenylphosphine and 16.9 g of sodium bicarbonate are dispersed in 35 cc of N-methyl-pyrrolidone. Hydrogen is introduced into the reaction flask for 30', under vigorous stirring. The hydrogen is removed with repeated washing with nitrogen and 10 g of 3-bromobenzophenone and 3.75 g of 2-methyl-prop-2-en-1-ol are then added.

reactant | triphenylphosphine | 0.254 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium bicarbonate | 16.9 g | C([O-])(O)=O.[Na+]
reactant | Hydrogen | [H][H] | H2
reactant | N-methyl-pyrrolidone | 35 cc | CN1C(CCC1)=O | C5H9NO
catalyst | palladium chloride | 0.085 g | [Pd](Cl)Cl
product | 3-(3-benzoylphenyl)-2-methylpropanal | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)CC(C=O)C | C17H16O2
